US04346088
(a) 3-Methyl-4-oxo-2-phenyliminothiazolidine hydrobromide
10 g of ethyl bromoacetate and 9.95 g of 1-methyl-3-phenylthiourea in 150 ml of acetone are boiled for 1 hour under a reflux condenser. The reaction mixture is allowed to cool and the crystals are filtered off and washed with acetone. Melting point 212°-215° C.

reactant | ethyl bromoacetate | 10 g | BrCC(=O)OCC | C4H7BrO2
reactant | 1-methyl-3-phenylthiourea | 9.95 g | CNC(=S)NC1=CC=CC=C1 | C8H10N2S
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-Methyl-4-oxo-2-phenyliminothiazolidine hydrobromide | Br.CN1C(SCC1=O)=NC1=CC=CC=C1 | InChI=1S/C10H10N2OS.BrH/c1-12-9(13)7-14-10(12)11-8-5-3-2-4-6-8;/h2-6H,7H2,1H3;1H
